US04052421
8.4 ml of a 1.56 molar solution of butyl-lithium in hexane is added to a suspension of 5.82 g of chloromethyltriphenyl-phosphonium chloride in 107 ml of absolute tetrahydrofurane and 1.67 ml of piperidine at 0° C, under argon and with complete exclusion of moisture. After 30 minutes, 1.3 g of 3,3:17,17-bis-(ethylenedioxy)-androst-5-en-18-al in 22.5 ml of tetrahydrofurane are added dropwise at room temperature. Thereafter, the mixture is stirred for 1 hour at room temperature and then poured into ice water. Ethyl acetate is added to the mixture and the organic phase is separated off and washed with cold 1 N hydrochloric acid, with water, with sodium bicarbonate solution and with saturated sodium chloride solution. After drying over sodium sulphate and evaporating the solvent, the residue is chromatographed on silica gel using a mixture of hexane/ethyl acetate (9:1). 3,3;17,17-Bis-(ethylenedioxy)-13-(cis-2-chlorovinyl)-10-methyl-gon-5-ene is isolated from the first fractions and is recrystallised from methylene chloride/hexane; melting point 172°-174° C, [α]D 25 = -81°. The corresponding trans isomer is obtained from the later fractions and after recrystallisation from petroleum ether melts at 108°-110° C, and has an [α]D25 = -52°.

reactant | butyl-lithium | C(CCC)[Li]
reactant | chloromethyltriphenyl-phosphonium chloride | 5.82 g | [Cl-].ClC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 17,17-bis-(ethylenedioxy)-androst-5-en-18-al | C1OC23[C@]4(C=O)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC4 | C23H32O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofurane | 107 ml | O1CCCC1 | C4H8O
solvent | piperidine | 1.67 ml | N1CCCCC1 | C5H11N
solvent | tetrahydrofurane | 22.5 ml | O1CCCC1 | C4H8O
product | 17,17-Bis-(ethylenedioxy)-13-(cis-2-chlorovinyl)-10-methyl-gon-5-ene | C1OC23CC[C@H]4[C@H]5[C@H](CC([C@]24\C=C/Cl)(OCCO3)OC1)[C@]1(CCCCC1=CC5)C | C24H33ClO4
